US07572820B2
A. 1,1-Dimethylethyl 2-[4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]propanoate
Synthesized as described in Example 4 using 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile, 2-bromopropionic acid t-butyl ester (1.5 eq) and Cs2CO3 (1.5 eq): MS (ES) m/z 355 (M+1).

reactant | 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)C(F)F | C10H5ClF2N2
reactant | 2-bromopropionic acid t-butyl ester | 1.5 eq | C(C)(C)(C)OC(C(C)Br)=O | C7H13BrO2
reactant | Cs2CO3 | 1.5 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
product | 1,1-Dimethylethyl 2-[4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]propanoate | ClC1=C2C=C(N(C2=CC=C1C#N)C(C(=O)OC(C)(C)C)C)C(F)F | C17H17ClF2N2O2
